US04415573
Bis(trimethylsilyl)5-fluorouracil prepared as in Example 1 from 5-fluorouracil (10 g), and 2-(2-ethoxyphenyl)-1,3-dioxolan (15 g) prepared from 2-ethoxybenzaldehyde and ethylene glycol were dissolved in dichloromethane (50 ml). The mixture was treated and acetylated as in Example 10 to give 6.2 g of crystalline 1-[α-(2-acetoxyethoxy)-2-ethoxybenzyl]-5-fluorouracil.

reactant | Bis(trimethylsilyl)5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 2-(2-ethoxyphenyl)-1,3-dioxolan | 15 g | C(C)OC1=C(C=CC=C1)C1OCCO1 | C11H14O3
reactant | 2-ethoxybenzaldehyde | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 1-[α-(2-acetoxyethoxy)-2-ethoxybenzyl]-5-fluorouracil | 6.2 g | C(C)(=O)OCCOC(C1=C(C=CC=C1)OCC)N1C(=O)NC(=O)C(=C1)F | C17H19FN2O6
